US05854275
To a solution of 2-(2-benzyloxyethyl) malonic acid tert-butyl ester ethyl ester (31.3 g, 97.1 mmol) in water (50 mL) and dioxane (200 mL) was added potassium hydroxide (6.6 g, 0.118 mole) while cooling in an ice bath. The mixture was then stirred at room temperature overnight. The solvents were evaporated under vacuum to leave a clear oil which was dissolved in water. The solution was washed with ether and then acidified to pH 3 using 6N hydrogen chloride (HCl) solution. The mixture was extracted twice with ether; the extracts were combined, washed with brine, dried over magnesium sulfate (MgSO4) and concentrated under vacuum to leave 2-(2-benzyloxyethyl) malonic acid mono tert-butyl ester as a clear oil, 23.9 g (84%).

reactant | 2-(2-benzyloxyethyl) malonic acid tert-butyl ester ethyl ester | 97.1 mmol, 31.3 g | C(C)OC(C(C(=O)OC(C)(C)C)CCOCC1=CC=CC=C1)=O | C18H26O5
reactant | potassium hydroxide | 0.118 mole, 6.6 g | [OH-].[K+]
solvent | water | 50 mL | O | H2O
solvent | dioxane | 200 mL | O1CCOCC1 | C4H8O2
product | 2-(2-benzyloxyethyl) malonic acid mono tert-butyl ester | C(C)(C)(C)OC(C(C(=O)O)CCOCC1=CC=CC=C1)=O | C16H22O5
